US09428499B2
Step-b: Synthesis of 3-Amino-N-(oxetan-3-yl)benzamide
To a stirred solution of 3-Nitro-N-(oxetan-3-yl)benzamide (0.06 g, 0.270 mmol) in methanol (5 ml) was added Pd/C (2.87 mg) and the reaction mixture was stirred under hydrogen atmosphere for 20 min. The reaction mixture was diluted with methanol (10 ml) and the mixture was filtered through celite, and the filtrate was concentrated under vacuum to afford the title compound (48 mg).

reactant | 3-Nitro-N-(oxetan-3-yl)benzamide | 0.270 mmol, 0.06 g | [N+](=O)([O-])C=1C=C(C(=O)NC2COC2)C=CC1 | C10H10N2O4
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 2.87 mg | [Pd] | Pd
product | 3-Amino-N-(oxetan-3-yl)benzamide | 48 mg | NC=1C=C(C(=O)NC2COC2)C=CC1 | C10H12N2O2
